US07662813B2
4-{5-Hydroxy-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-yl}-6-isopropyl-benzene-1,3-diol
5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-ol (240 mg, 0.4 mmol) was dissolved in methanol (10 mL) then 10% palladium on charcoal (200 mg) was added and the reaction was stirred under an atmosphere of hydrogen for 16 hrs. Filtration was carried out through a silca gel plug and removal of the solvent under reduced pressure produced the desired compound as a white solid (150 mg, 94%).

reactant | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-ol | 0.4 mmol, 240 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C=1N(C(=NN1)O)C1=CC(=C(C=C1)OC)N(CCC)C | C36H40N4O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | 4-{5-Hydroxy-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-yl}-6-isopropyl-benzene-1,3-diol | 150 mg, 94% | OC=1N(C(=NN1)C1=C(C=C(C(=C1)C(C)C)O)O)C1=CC(=C(C=C1)OC)N(CCC)C | C22H28N4O4
